US05998470
a) ethyl 2-aminothiazole-4-carboxylate hydrobromide
To a stirring suspension of thiourea (6.0 g, 78.8 mmol) in ethanol (80 mL) was added ethyl bromopyruvate (15.4 g, 78.8 mmol). The resulting solution was heated at 45° C. for 23 h. The solution was cooled at 0° C. for 24 h, and the crystals were collected by filtration and washed with cold ethanol to provide the title compound (15.8 g, 79%). 1H NMR (400 MHz, CD3OD) δ 7.70 (s, 1H), 4.41 (q, 2H), 1.38 (t, 3H).

reactant | thiourea | 78.8 mmol, 6.0 g | NC(=S)N | CH4N2S
reactant | ethyl bromopyruvate | 78.8 mmol, 15.4 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | ethyl 2-aminothiazole-4-carboxylate hydrobromide | 15.8 g, 79% | Br.NC=1SC=C(N1)C(=O)OCC | InChI=1S/C6H8N2O2S.BrH/c1-2-10-5(9)4-3-11-6(7)8-4;/h3H,2H2,1H3,(H2,7,8);1H
